US05258513
A solution of 2.61 g (0.03 mole) of morpholine in 20 ml of chloroform is added in the course of 30 minutes to a solution of 5.7 g (0.03 mole) of 2,4-dichloro-6-cyclopropyl-1,3,5-triazine in 50 ml of chloroform, cooled to between 3° and 5° C. The temperature of the mixture is allowed to return to about 10° C., then the mixture is cooled again to 5° C. and a solution of 4.14 g (0.03 mole) of potassium carbonate in 15 ml of water is added dropwise. The mixture is then stirred at room temperature for two hours. 30 ml of water are added and the organic phase is separated off. The solution is washed with water and dried over sodium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by chromatography on silica (eluent: 96.5:3.5 (v/v) dichloromethane-ethylacetate) and then recrystallized from hexane. 5.5 g of 2-chloro-4-cyclopropyl-6-morpholino-1,3,5-triazine are thus obtained. Yield: 76.2%. M.P.: 99°-100° C.

reactant | morpholine | 0.03 mole, 2.61 g | N1CCOCC1 | C4H9NO
reactant | 2,4-dichloro-6-cyclopropyl-1,3,5-triazine | 0.03 mole, 5.7 g | ClC1=NC(=NC(=N1)Cl)C1CC1 | C6H5Cl2N3
reactant | potassium carbonate | 0.03 mole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 15 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-chloro-4-cyclopropyl-6-morpholino-1,3,5-triazine | 5.5 g, Yield: 76.2% | ClC1=NC(=NC(=N1)C1CC1)N1CCOCC1 | C10H13ClN4O
